US07217723B2
[2-(4-Fluorophenyl)ethylamino]acetonitrile
To a solution of 4-fluorophenethylamine (1.4 g) in acetonitrile (20 mL) was added dropwise N,N-diisopropylethylamine (2.6 mL) and bromoacetonitrile (0.84 mL). After stirring at room temperature for 50 minutes, the solution was diluted with ethyl acetate, the solution was washed with water, then with saturated sodium chloride water. After drying with anhydrous sodium sulfate, the solvent was removed by evaporation to provide the title compound (2.12 g) as a yellow oily substance.

reactant | 4-fluorophenethylamine | 1.4 g | FC1=CC=C(CCN)C=C1 | C8H10FN
reactant | N,N-diisopropylethylamine | 2.6 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | bromoacetonitrile | 0.84 mL | BrCC#N | C2H2BrN
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [2-(4-Fluorophenyl)ethylamino]acetonitrile | 2.12 g | FC1=CC=C(C=C1)CCNCC#N | C10H11FN2
